US05292732
N-[2-[2-(p-Methoxyphenyl)pyrrol-1-yl]ethyl]acetamide (10.4 g) was dissolved in 300 ml of methylene chloride under argon, cooled to -15° C. and treated at this temperature while stirring with a solution of 11.6 ml of boron tribromide in 90 ml of methylene chloride. The mixture was stirred at -15° C. for 1 hour, at 0° C. for 2 hours and at room temperature overnight. The reaction mixture was treated at -10° C. with 270 ml of 2N sodium hydroxide solution and stirred at room temperature for 1 hour. 200 ml of methylene chloride were added to this mixture and the resulting mixture was adjusted to pH=8 with 70 ml of 2N hydrochloric acid. The phases were separated and the aqueous phase was extracted twice with 150 ml of methylene chloride each time. The organic phases were combined, dried with MgSO4 and freed from solvent. The residue, 8.2 g of brown oil, was chromatographed on 250 g of silica gel with methylene chloride/methanol mixtures (50:1 to 20:1) as the eluent. There were obtained 5.4 g (55%) of N-[2 -[2-(p-hydroxyphenyl)pyrrol-1-yl]ethyl]acetamide as a colourless, amorphous solid which was processed without further purification. MS: (m/e)=244 (M+).

reactant | N-[2-[2-(p-Methoxyphenyl)pyrrol-1-yl]ethyl]acetamide | 10.4 g | COC1=CC=C(C=C1)C=1N(C=CC1)CCNC(C)=O | C15H18N2O2
reactant | boron tribromide | 11.6 ml | B(Br)(Br)Br | BBr3
reactant | sodium hydroxide | 2N, 270 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 70 ml | Cl | ClH
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N-[2 -[2-(p-hydroxyphenyl)pyrrol-1-yl]ethyl]acetamide | 5.4 g, 55% | OC1=CC=C(C=C1)C=1N(C=CC1)CCNC(C)=O | C14H16N2O2
